US05585378
5-Amino-1,3-dihydro-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-2H-indol-2-one
1,3-Dihydro-5-nitro-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-2H-indol-2-one (200 mg) in ethanol (100 ml) containing 5% palladium on carbon (60 mg) was stirred under an atmosphere of hydrogen at STP for 1 hour. The catalyst was filtered off, the filtrate evaporated to dryness, and the residue purified by flash chromatography on silica gel.

reactant | 1,3-Dihydro-5-nitro-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-2H-indol-2-one | 200 mg | [N+](=O)([O-])C=1C=C2CC(N(C2=CC1)CCN1CCN(CC1)CC1=CC=CC=C1)=O | C21H24N4O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
product | 5-Amino-1,3-dihydro-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-2H-indol-2-one | NC=1C=C2CC(N(C2=CC1)CCN1CCN(CC1)CC1=CC=CC=C1)=O | C21H26N4O
